US05072038
The chlorination of the 2,4,5-trifluorobenzoic acid is carried out in the melt, under pressure and/or in a solvent, for example chlorosulphonic acid or oleum, in the presence of halogen transfer agents, for example iodine. 2,4,5-Trifluoro-3-chlorobenzoic acid is obtained in this reaction. However, since the reaction mixture still contains unchanged starting material and some 2,4,5-trifluoro-3,6-dichlorobenzoic acid, the crude mixture is treated, without intermediate isolation, with thionyl chloride. The desired 2,4,5-trifluoro-3-chlorobenzoyl chloride is then obtained by fractional distillation. However, it is more favorable to carry out the separation by distillation of the acid fluorides.

reactant | 2,4,5-trifluoro-3,6-dichlorobenzoic acid | FC1=C(C(=O)O)C(=C(C(=C1Cl)F)F)Cl | C7HCl2F3O2
reactant | thionyl chloride | S(=O)(Cl)Cl | Cl2OS
product | 2,4,5-trifluoro-3-chlorobenzoyl chloride | FC1=C(C(=O)Cl)C=C(C(=C1Cl)F)F | C7HCl2F3O
